US04086343
To a solution of 27g of 3-(2'-hydroxypropyl)methylamino-6-hydrazinopyridazine dihydrochloride in 200 ml of anhydrous pyridine, 7 ml of acetyl chloride are slowly added dropwise at 0° C. When addition is completed, the reaction mixture is left to stand under stirring for two hours at 0°-5° C and then overnight at 0° C. The pyridine is removed by distillation in the rotating evaporator under vacuum at approximately 10° C and an oily residue is obtained which is treated at 0° C and under stirring with a solution of sodium methylate. The product obtained is dried at 10° C, the residue taken up with isopropyl alcohol, filtered on cellite cake and the filtrate, dried under vacuum, gives 3-(2'-hydroxypropyl) methylamino-6-(2'-acetylhydrazino)pyridazine which, recrystallized from ethyl alcohol, melts at 168° C.

reactant | 3-(2'-hydroxypropyl)methylamino-6-hydrazinopyridazine dihydrochloride | Cl.Cl.OC(CC=1N=NC(=CC1NC)NN)C
reactant | sodium methylate | C[O-].[Na+]
reactant | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
solvent | acetyl chloride | 7 ml | C(C)(=O)Cl | C2H3ClO
product | 3-(2'-hydroxypropyl) methylamino-6-(2'-acetylhydrazino)pyridazine | OC(CC=1N=NC(=CC1NC)NNC(C)=O)C | C10H17N5O2
